### PR TITLE
feat(Data/Set/Card): cardinality of complement and difference

### PR DESCRIPTION
**Pull request by SnirBroshi**
- `ncard_compl` doesn't need `sᶜ.Finite`
- added `sᶜ.encard` lemma
- added `[e]ncard (t \ s)` lemmas that don't require `s ⊆ t`
- tag them `simp`

---
and generalized nearby similar things.

`ncard_sdiff_singleton_of_mem` and `pred_ncard_le_ncard_sdiff_singleton` were moved down to be able to use the `ncard` diff lemma.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by SnirBroshi** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/3d2a658cb93354a8053cbce53085d28dcf7e5ef5?reference=2308bf95944cd40446bd8567907ed456241073ad) for 3d2a658cb93354a8053cbce53085d28dcf7e5ef5 against 2308bf95944cd40446bd8567907ed456241073ad are in. No significant results found. @SnirBroshi

- 🟥 `build//instructions`: **+17.7G** (**+0.01%**)

**Small changes (2🟥)**

- 🟥 `build/module/Mathlib.Analysis.Complex.ValueDistribution.Proximity.IntegralPresentation//instructions`: **+340.7M** (**+1.60%**)
- 🟥 `build/module/Mathlib.Data.Set.Card//instructions`: **+1.1G** (**+2.18%**)

File: Mathlib/Data/Set/Card.lean [hunk 1]
```diff
@@ -744,6 +753,12 @@ theorem ncard_le_ncard_insert (a : α) (s : Set α) : s.ncard ≤ (insert a s).n
 theorem ncard_pair {a b : α} (h : a ≠ b) : ({a, b} : Set α).ncard = 2 := by
   simp [h]
 
+@[simp]
+theorem ncard_pair_iff {a b : α} : Set.ncard {a, b} = 2 ↔ a ≠ b := by
```
Comment (b-mehta) [inline Mathlib/Data/Set/Card.lean:757]: can we keep the name here analogous to Finset.card_pair_eq_two_iff?

**Review by b-mehta — COMMENTED** [review]
oops I started reviewing and got distracted - I think this looks broadly nice!

File: Mathlib/Data/ENat/Basic.lean [hunk 2]
```diff
@@ -331,6 +331,10 @@ protected lemma exists_nat_gt (hn : n ≠ ⊤) : ∃ m : ℕ, n < m := by
 @[simp] lemma sub_eq_top_iff : a - b = ⊤ ↔ a = ⊤ ∧ b ≠ ⊤ := WithTop.sub_eq_top_iff
 lemma sub_ne_top_iff : a - b ≠ ⊤ ↔ a ≠ ⊤ ∨ b = ⊤ := WithTop.sub_ne_top_iff
 
+@[simp]
+theorem addLECancellable_iff_ne {a : ℕ∞} : AddLECancellable a ↔ a ≠ ⊤ :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/ENat/Basic.lean:335]: This name is consistent with `ENNReal.addLECancellable_iff_ne` but not `WithTop.addLECancellable_iff_ne_top` or `ENat.addLECancellable_of_ne_top`. I weakly lean towards `iff_ne_top` (and renaming `ENNReal.addLECancellable_iff_ne` separately)

File: Mathlib/Data/Set/Card.lean [hunk 3]
```diff
@@ -744,6 +753,12 @@ theorem ncard_le_ncard_insert (a : α) (s : Set α) : s.ncard ≤ (insert a s).n
 theorem ncard_pair {a b : α} (h : a ≠ b) : ({a, b} : Set α).ncard = 2 := by
   simp [h]
 
+@[simp]
+theorem ncard_pair_eq_two_iff {a b : α} : Set.ncard {a, b} = 2 ↔ a ≠ b := by
+  refine ⟨fun h ↦ ?_, (by simp [·])⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Card.lean:758]: Maybe
```suggestion
  refine ⟨fun h ↦ ?_, by simp +contextual⟩
```
is more readable? I'm not sure.

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate
